US04592866
3,5-Dichloro-4-pyridinecarboxylic acid
To a solution of 4.96 ml (0.036 mole) of diisopropylamine in 200 ml of tetrahydrofuran at -65° C. under a nitrogen blanket was added dropwise 14.9 ml of 2.5M n-butyllithium in hexane while maintaining the above temperature. Twenty minutes subsequent to that addition, a solution 5.0 g (0.034 mole) of 3,5-dichloropyridine in 30 ml tetrahydrofuran at -60° to -70° C. was added. The reaction mixture was stirred at -70° C. for 1/2 hr, poured onto a large excess of dry ice and allowed to evaporate overnight at room temperature. The residue was taken up in 100 ml of dilute aqueous sodium hydroxide, washed with 3×30 ml of methylenechloride and filtered. The filtrate was acidified to ~pH 2 with dilute hydrochloric acid to precipitate out the product. After cooling, the precipitate was collected and recrystallized from ethyl acetate/hexane giving 1.9 g (29%) of white analytically pure crystals, m.p. 231°-35° C. (decomp.).

reactant | diisopropylamine | 0.036 mole, 4.96 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M, 14.9 ml | C(CCC)[Li]
reactant | 3,5-dichloropyridine | 0.034 mole, 5.0 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3,5-Dichloro-4-pyridinecarboxylic acid | ClC=1C=NC=C(C1C(=O)O)Cl | C6H3Cl2NO2
